US04204071
The process of Example 3 is repeated using o-chlorophenylacetaldehyde to prepare ethyl 2-isopropyl-4-(o-chlorophenyl)-3-butenoate, which is hydrolyzed (potassium hydroxide-water/methanol) to the acid, 2-isopropyl-4-(o-chlorophenyl)-3-butenoic acid. The acid is reacted with m-phenoxybenzyl bromide as in Example 1 to yield m-phenoxybenzyl 2-isopropyl-4-(o-chlorophenyl)-3-butenoate. MS m/e 420 (M+).

reactant | o-chlorophenylacetaldehyde | ClC1=C(C=CC=C1)CC=O | C8H7ClO
reactant | ethyl 2-isopropyl-4-(o-chlorophenyl)-3-butenoate | C(C)(C)C(C(=O)OCC)C=CC1=C(C=CC=C1)Cl | C15H19ClO2
reactant | potassium hydroxide water methanol | [OH-].[K+].O.CO
reactant | 2-isopropyl-4-(o-chlorophenyl)-3-butenoic acid | C(C)(C)C(C(=O)O)C=CC1=C(C=CC=C1)Cl | C13H15ClO2
reactant | m-phenoxybenzyl bromide | O(C1=CC=CC=C1)C=1C=C(CBr)C=CC1 | C13H11BrO
product | m-phenoxybenzyl 2-isopropyl-4-(o-chlorophenyl)-3-butenoate | C(C)(C)C(C(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)C=CC1=C(C=CC=C1)Cl | C26H25ClO3
